US04254123
A solution of 10 g of 4,5-dichloro-o-phenylenediamine, 9 g of alloxan hydrate, 1.5 g of boric acid and 250 ml of glacial acetic acid was stirred overnight at room temperature to obtain a brown-black solution which was filtered. The yellow-buff crystalline solid was well washed with water to obtain 15.9 g of 7,8-dichloro-alloxazine melting at >370° C. A solution of 2 g of 7,8-dichloro-alloxazine in 10 ml of concentrated sulfuric acid was slowly heated to 240° C. and held there for 10 minutes. The mixture was cooled and poured onto ice and the mixture was made alkaline with sodium hydroxide addition. The mixture was extracted several times with ether to obtain 0.73 g of 2-amino-6,7-dichloro-quinoxaline as an orange crystalline solid melting at 220° C.

reactant | 4,5-dichloro-o-phenylenediamine | 10 g | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | alloxan hydrate | 9 g | O.N1C(=O)NC(=O)C(=O)C1=O
reactant | boric acid | 1.5 g | B(O)(O)O | BH3O3
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 7,8-dichloro-alloxazine | 15.9 g | C1=C2C(=CC(=C1Cl)Cl)N=C3C(=N2)C(=O)NC(=O)N3 | C10H4Cl2N4O2
